US06323376B1
Preparation of 1-(4-Chlorobenzyloxy)-2-(4-phenylphenoxy)ethane (Compound D) by Solvent-Free Reaction
4-Phenylphenol (34.0 g, 0.2 mole), ethylene carbonate (20.0 g, 0.227 mole) and tetrabutylammonium bromide (6.5 g, 0.02 mole) were heated to 155° C. with stirring in a three-necked, round-bottom flask equipped with a mechanical stirrer and a reflux condenser. After 5 hours, the reaction mixture was cooled to 110° C., most of the lower boiling materials were removed under reduced pressure. Finely powdered potassium hydroxide (17.0 g, 0.3 mole) was added and the reaction mixture was stirred for 5 minutes. Then, 4-chloro-benzyl chloride (35.0 g, 0.217 mole) was added and the reaction was kept at 110° C. with vigorous stirring. After 4 hours, toluene (250 ml) was added and the reaction mixture was cooled to 60° C. Water (100 ml) was added and stirring continued. Toluene layer was separated and the aqueous layer was extracted twice with warm toluene. The toluene extracts were combined, washed with water, dried and concentrated. The residue was recrystallized from toluene/methanol. Yield: 55.8 g (82%), white solid, M.P.: 85-87° C.

reactant | 4-Phenylphenol | 0.2 mole, 34.0 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | ethylene carbonate | 0.227 mole, 20.0 g | C1(OCCO1)=O | C3H4O3
reactant | potassium hydroxide | 0.3 mole, 17.0 g | [OH-].[K+]
reactant | 4-chloro-benzyl chloride | 0.217 mole, 35.0 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
catalyst | tetrabutylammonium bromide | 0.02 mole, 6.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | 100 ml | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Chlorobenzyloxy)-2-(4-phenylphenoxy)ethane | ClC1=CC=C(COCCOC2=CC=C(C=C2)C2=CC=CC=C2)C=C1 | C21H19ClO2
